US07164024B2
1-[1-[2-(1-Benzoylpiperidin-4-yl)ethyl]piperidin-4-yl]-1 3-dihydro-2H-benzimidazol-2-one
To 20 mg of 1-[1-[2-(piperidin-4-yl)ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride which was synthesized in Production Example 1, 10 mg of benzoyl chloride, 27 mg of diisopropylethylamine and 2 ml of chloroform were added, and sonicated for 30 minutes. Then 20 mg of piperidine was added to the system followed by 10 minutes' standing. The resulting reaction mixture was concentrated, and the residue was purified on silica gel chromatography (chloroform/methanol=15/1) to provide 14 mg of the title compound as a colorless oil.

reactant | 1-[1-[2-(piperidin-4-yl)ethyl]piperidin-4-yl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | 20 mg | Cl.Cl.N1CCC(CC1)CCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O
reactant | benzoyl chloride | 10 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diisopropylethylamine | 27 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperidine | 20 mg | N1CCCCC1 | C5H11N
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-[2-(1-Benzoylpiperidin-4-yl)ethyl]piperidin-4-yl]-1 3-dihydro-2H-benzimidazol-2-one | 14 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C26H32N4O2
